US05264453
A solution of (2S,4R)-4-[4-chlorophenylsulfonylamino)-2-[(Z)-5-methoxycarbonyl-1-pentenyl]-1-(3-pyridylmethyl)pyrrolidine (670 mg) in a mixture of methanol (5 ml) and 1N-aqueous sodium hydroxide (3 ml) was stirred at room temperature for 4 hours. The solution was adjusted to pH 5 with 10% hydrochloric acid and extracted with chloroform, and the organic solution was washed with brine. The solution was dried over magnesium sulfate and the solvent was evaporated in vacuo. The residue was chromatographed on a silica gel (20 g) column with a mixture of chloroform and methanol (20:1) as an eluent to give (2S,4R)-2-[(Z)-5-carboxy-1-pentenyl]-4-(4-chlorophenylsulfonylamino)-1-(3-pyridylmethyl)pyrrolidine (408 mg) as a pale yellow amorphous.

reactant | (2S,4R)-4-[4-chlorophenylsulfonylamino)-2-[(Z)-5-methoxycarbonyl-1-pentenyl]-1-(3-pyridylmethyl)pyrrolidine | 670 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1C[C@H](N(C1)CC=1C=NC=CC1)\C=C/CCCC(=O)OC | C23H28ClN3O4S
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | (2S,4R)-2-[(Z)-5-carboxy-1-pentenyl]-4-(4-chlorophenylsulfonylamino)-1-(3-pyridylmethyl)pyrrolidine | 408 mg | C(=O)(O)CCC\C=C/[C@H]1N(C[C@@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)CC=1C=NC=CC1 | C22H26ClN3O4S
